US08106215B2
6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(4′-fluoro-biphenyl-2-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with commercially available 4′-fluoro-biphenyl-2-carboxylic acid.

reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN[C@@H]([C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C | C16H22N4OS
reactant | 4′-fluoro-biphenyl-2-carboxylic acid | FC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C13H9FO2
product | 6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(4′-fluoro-biphenyl-2-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C)C(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)F | C29H29FN4O2S
